US07435837B2
(±)-{[7-fluoro-5-(2-methylphenyl)-2,3-dihydro-1-benzofuran-2-yl]methyl}methylamine
The title compound was prepared (0.075 g, 75%) following the general procedure of Example 390 as a white solid, hydrochloride salt from (±)-[7-fluoro-5-(2-methylphenyl)-2,3-dihydro-1-benzofuran-2-yl]methyl 4-methylbenzenesulfonate (0.141 g, 0.32 mmol) and methylamine (0.20 g, 6.4 mmol). mp 212-217° C. (dec).

reactant | (±)-[7-fluoro-5-(2-methylphenyl)-2,3-dihydro-1-benzofuran-2-yl]methyl 4-methylbenzenesulfonate | 0.32 mmol, 0.141 g | CC1=CC=C(C=C1)S(=O)(=O)OCC1OC2=C(C1)C=C(C=C2F)C2=C(C=CC=C2)C | C23H21FO4S
reactant | methylamine | 6.4 mmol, 0.20 g | CN | CH5N
product | (±)-{[7-fluoro-5-(2-methylphenyl)-2,3-dihydro-1-benzofuran-2-yl]methyl}methylamine | FC1=CC(=CC=2CC(OC21)CNC)C2=C(C=CC=C2)C | C17H18FNO
